US04225609
Preparation of 4-{3-[3-[2-(1-Hydroxycyclohexyl)ethyl]-1,4-dioxo-2-thiazolidinyl]propyl}benzoic Acid
Sodium metaperiodate (0.75 g., 3.5 mmoles) is added to a cold (0°-5° C.) solution of 4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic acid (1.33 g., 3.4 mmoles) in methanol (20 ml.) and water (5 ml.). The resulting mixture is stirred without further cooling for 16 hours. The precipitated solid is then removed by filtration. The filtrate is diluted with water and extracted with chloroform. The organic extract is washed with brine, dried over sodium sulfate, and evaporated in vacuo to leave an oily residue which is chromatographed on silica gel (25 g.). Elution with 4% acetic acid in chloroform affords the title compound as a viscous, yellowish oil.

reactant | Sodium metaperiodate | 3.5 mmoles, 0.75 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic acid | 3.4 mmoles, 1.33 g | OC1(CCCCC1)CCN1C(SCC1=O)CCCC1=CC=C(C(=O)O)C=C1 | C21H29NO4S
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 4-{3-[3-[2-(1-Hydroxycyclohexyl)ethyl]-1,4-dioxo-2-thiazolidinyl]propyl}benzoic Acid | OC1(CCCCC1)CCN1C(S(CC1=O)=O)CCCC1=CC=C(C(=O)O)C=C1 | C21H29NO5S
